US04362728
A mixture of 4-[2-(2,2,2-trifluoroethyl)-guanidino]-2-[(2-aminoethyl)thiomethyl]pyrimidine (0.31 g.) 1-methylamino-1-methylthio-2-nitroethylene (0.15 g.) and acetonitrile (5 ml.) was heated under reflux for 6 hours and then left at room temperature for 18 hours. The yellow crystalline precipitate was collected to give 1-(2-[4-(2-[2,2,2-trifluoroethyl]guanidino)pyrimid-2-ylmethylthio]ethylamino)-1-methylamino-2-nitroethylene (0.26 g.), m.p. 154°-157° after recrystallisation from ethanol.

reactant | 4-[2-(2,2,2-trifluoroethyl)-guanidino]-2-[(2-aminoethyl)thiomethyl]pyrimidine | 0.31 g | FC(CN=C(NC1=NC(=NC=C1)CSCCN)N)(F)F | C10H15F3N6S
reactant | 1-methylamino-1-methylthio-2-nitroethylene | 0.15 g | CNC(=C[N+](=O)[O-])SC | C4H8N2O2S
solvent | acetonitrile | 5 ml | C(C)#N | C2H3N
product | 1-(2-[4-(2-[2,2,2-trifluoroethyl]guanidino)pyrimid-2-ylmethylthio]ethylamino)-1-methylamino-2-nitroethylene | 0.26 g | FC(CN=C(NC1=NC(=NC=C1)CSCCNC(=C[N+](=O)[O-])NC)N)(F)F | C13H19F3N8O2S
